US07053216B2
A mixture of N-(1-benzoylethyl)-2-(formylamino)-benzamide in N-methyl-pyrrolidone (“NMP”) is dehydrated with concentrated sulfuric acid, cyclizing to provide 3-(1-phenyl-1-oxoprop-2-yl)-quinazolin-4-one.

reactant | N-(1-benzoylethyl)-2-(formylamino)-benzamide | C(C1=CC=CC=C1)(=O)C(C)NC(C1=C(C=CC=C1)NC=O)=O | C17H16N2O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | N-methyl-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 3-(1-phenyl-1-oxoprop-2-yl)-quinazolin-4-one | C1(=CC=CC=C1)C(C(C)N1C=NC2=CC=CC=C2C1=O)=O | C17H14N2O2
